US05362906
Step 2: Benzyl [(E,E)-4,8,12-trimethyl-3,7,11-tridecatrienyloxy]methyl ether
n-Butyl lithium (1.6M in hexane, 8.6 mL, 13.8 mmol) was added under nitrogen to a stirred solution of (benzyloxymethoxy)methyl-tri-(n-butyl) tin (6.1 g, 13.8 mmol) in THF (56 mL) at -78° C. The resulting mixture was stirred at -78° C. for 10 min, then added a solution of (E,E)-3,7,11-trimethyl-2,6,10-dodecatrienylbromide (3.5 g, 12.3 mmol) in THF (4 mL) via a dropping funnel. The resulting mixture was stirred at -78° C. for 0.5 hours, then poured into cold water and extracted with ether. The ethereal extract was dried, filtered and evaporated to afford a residue, which was purified by flash chromatography on a silica gel column. Elution of the column with hexane:ether (25:1, v:v) provided the title compound as a colorless oil (2.39 g, 6.7 mmol, 54.5%).

reactant | n-Butyl lithium | 13.8 mmol, 1.6M, 8.6 mL | C(CCC)[Li]
reactant | (benzyloxymethoxy)methyl-tri-(n-butyl) tin | 13.8 mmol, 6.1 g | C(C1=CC=CC=C1)OCOC[Sn](CCCC)(CCCC)CCCC
reactant | (E,E)-3,7,11-trimethyl-2,6,10-dodecatrienylbromide | 12.3 mmol, 3.5 g | C\C(=C/CBr)\CC\C=C(\CCC=C(C)C)/C | C15H25Br
reactant | water | O | H2O
solvent | THF | 56 mL | C1CCOC1 | C4H8O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | Benzyl [(E,E)-4,8,12-trimethyl-3,7,11-tridecatrienyloxy]methyl ether | 6.7 mmol, 2.39 g, 54.5% | C\C(=C/CCOCOCC1=CC=CC=C1)\CC\C=C(\CCC=C(C)C)/C | C24H36O2
